US07935815B2
Synthesis of (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-N-[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]acrylamide
EDC (667 mg), HOBT (470 mg) and IPEA (1.01 mL) were added to a suspension of (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid (300 mg) and 1-amino-3-(3,4,5-trifluorophenyl)piperidin-2-one (368 mg) in DMF (10 mL). The reaction solution was stirred at room temperature for 15 hours. Then, water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate-methanol system) to obtain 508 mg of the title compound. The property value of the compound is as follows.

reactant | HOBT | 470 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 1.01 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid | 300 mg | COC1=C(C=CC(=N1)/C=C/C(=O)O)N1C=NC(=C1)C | C13H13N3O3
reactant | 1-amino-3-(3,4,5-trifluorophenyl)piperidin-2-one | 368 mg | NN1C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O | C11H11F3N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | EDC | 667 mg
product | (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-N-[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]acrylamide | 508 mg | COC1=C(C=CC(=N1)/C=C/C(=O)NN1C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O)N1C=NC(=C1)C | C24H22F3N5O3
